US06090825
A. 5-(2,4-Difluoro-phenyl)-oxazole-4-carboxylic acid methyl ester
To a 500 ml three neck flask fitted with mechanical stirrer under nitrogen is added 2,4-difluorobenzoyl chloride (141 mmol, 25 g), methyl isocyanoacetate (143 mmol, 13 mL), triethylamine (424 mmol, 60 mL) and tetrahydrofuran (200 mL). The mixture is stirred for 72 hours at room temperature. The reaction is concentrated to a thick slurry and then transferred to a separatory funnel using 500 mls of distilled water. The aqueous mixture is extracted with ethyl acetate (4×250 mL). The ethyl acetate washes are combined and washed with brine. The organics are dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting residue is disolved in hot ethanol (400 mL) and treated with decolorizing carbon and magnesium sulfate. After 15 minutes, the mixture is filtered to remove the insolubles. To the filtrate is added to one liter of distilled water. A precipitate forms and the resultant mixture is allowed to stand. The resulting solid is collected by filtration and is washed with copious amounts of water. The resulting solid is dried under vacuum to give the title compound.

reactant | 2,4-difluorobenzoyl chloride | 141 mmol, 25 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | methyl isocyanoacetate | 143 mmol, 13 mL | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | triethylamine | 424 mmol, 60 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-(2,4-Difluoro-phenyl)-oxazole-4-carboxylic acid methyl ester | COC(=O)C=1N=COC1C1=C(C=C(C=C1)F)F | C11H7F2NO3
